US07087599B2
A solution 2-butyl-4-chloro-5-methoxy-1-indanone (550 mg, 2.03 mmol) in tetrahydrofuran (4.06 mL) was treated with methyl vinyl ketone (0.203 mL, 2.44 mmol) and 0.5N sodium methoxide in methanol (0.812 mL, 0.406 mmol). The mixture was stirred at room temperature for 90 minutes to effect conversion to 2-butyl-4-chloro-5-methoxy-2-(3-oxobutyl)-1-indanone. The reaction mixture was evaporated under vacuum. The residue in toluene (10 mL) was treated with pyrrolidine (0.170 mL, 2.03 mmol) and acetic acid (0.140 mmol, 2.44 mmol). The resulting mixture was stirred and heated in an oil bath at 80° C. for 2.5 hours. After cooling to room temperature, the mixture was partitioned between EtOAc and water. The organic phase was washed with 0.1N HCl, saturated aqueous NaHCO3 and brine, dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified by preparative layer chromatography on silica gel GF plates to afford 9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one.

reactant | 2-butyl-4-chloro-5-methoxy-1-indanone | 2.03 mmol, 550 mg | C(CCC)C1C(C2=CC=C(C(=C2C1)Cl)OC)=O | C14H17ClO2
reactant | methyl vinyl ketone | 2.44 mmol, 0.203 mL | C(=C)C(=O)C | C4H6O
reactant | sodium methoxide | 0.5N | C[O-].[Na+]
reactant | methanol | 0.406 mmol, 0.812 mL | CO | CH4O
reactant | 2-butyl-4-chloro-5-methoxy-2-(3-oxobutyl)-1-indanone | C(CCC)C1(C(C2=CC=C(C(=C2C1)Cl)OC)=O)CCC(C)=O | C18H23ClO3
reactant | pyrrolidine | 2.03 mmol, 0.170 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 0.140 mmol | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 4.06 mL | O1CCCC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=C(C(=CC=C3C2=CC(CC1)=O)OC)Cl | C18H21ClO2
